US05516920
A mixture of 21.2 g (0.10 mol) of 2,4-di-tert-butylphenol (97%), 16.3 g (0.11 mol) of 50% aqueous glyoxylic acid, 2.0 g of Fulcat 22B and 50 ml of toluene is refluxed for 8 hours under nitrogen on a water separator. The Fulcat 22B catalyst is then removed by filtration and excess toluene is distilled off on a vacuum rotary evaporator. Crystallisation of the residue from 40 ml of ethanol yields 14.2 g (42%) of 5,7-di-tert-butyl-3-(4-methylphenyl)-3H-benzofuran-2-one, m.p. 130°-133° C. (compound (104), Table 1).

reactant | 2,4-di-tert-butylphenol | 0.10 mol, 21.2 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | glyoxylic acid | 0.11 mol, 16.3 g | C(C=O)(=O)O | C2H2O3
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5,7-di-tert-butyl-3-(4-methylphenyl)-3H-benzofuran-2-one | 14.2 g, 42% | C(C)(C)(C)C=1C=C(C2=C(C(C(O2)=O)C2=CC=C(C=C2)C)C1)C(C)(C)C | C23H28O2
